US08629157B2
Step 2: Synthesis of (2S,4R)-4-hydroxy-1-(2-morpholin-4-yl-pyrimidin-4-yl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
Morpholine (0.01 mL, 0.115 mmol) is added to a solution of (2S,4R)-1-(2-chloro-pyrimidin-4-yl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide (42 mg, 0.115 mmol) and diisopropylethylamine (0.02 mL, 0.115 mol). The reaction is stirred at 60° C. overnight. More morpholine (0.01 mL, 0.115 mmol) is added and the reaction is stirred at 80° C. for 3.5 hours. The reaction is diluted with water and extracted with ethyl acetate twice. The organics are combined and washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. Purification by chromatography on silica eluting with methanol/dichloromethane provides the title compound. ESI m/z 417 [M+H+].

reactant | Morpholine | 0.115 mmol, 0.01 mL | N1CCOCC1 | C4H9NO
reactant | (2S,4R)-1-(2-chloro-pyrimidin-4-yl)-4-hydroxy-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | 0.115 mmol, 42 mg | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)C1=NC(=NC=C1)Cl | C16H20ClN5O3
reactant | diisopropylethylamine | 0.115 mol, 0.02 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | morpholine | 0.115 mmol, 0.01 mL | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
product | (2S,4R)-4-hydroxy-1-(2-morpholin-4-yl-pyrimidin-4-yl)-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C[C@@H](C1)O)C1=NC(=NC=C1)N1CCOCC1 | C20H28N6O4
